US08431599B2
To a solution of (−)-(2R,3S)-2-amino-3-hydroxy-3-(pyridin-4-yl)-1-(pyrrolidin-1-yl)propan-1-one dihydrochloride Compound 203 (175 mg, 0.57 mmol) and Et3N (175 μL, 1.25 mmol) in MeOH (5 mL) in a 50 mL round bottom flask equipped with a magnetic stirrer and under nitrogen atmosphere was added slowly at RT 3,4-dichlorobenzaldehyde (112 mg, 0.63 mmol). The reaction mixture was stirred at RT for 20 h. Then AcOH (65 μL, 1.15 mmol) and NaBH3CN (50 mg, 0.74 mmol) were added. The reaction mixture was stirred at RT for another 15 h. MeOH was evaporated and EtOAc (100 mL) was added. The organic phase was washed with a mixture of saturated sodium carbonate (5 mL) and brine (20 mL), then with brine (10 mL) and dried over MgSO4, filtered and evaporated. The crude product was purified by column chromatography (SiO2, eluent EtOAc:MeOH=95:5) to give an oil (−)-(2R,3S)-2-amino-3-hydroxy-3-(pyridin-4-yl)-1-(pyrrolidin-1-yl)propan-1-one (182 mg, 81% yield). This free base (182 mg, 0.46 mmol) was dissolved in MeOH (2 mL) at 4° C. and a solution of HCl 0.1 N in isopropanol (10.2 mL, 1.01 mmol) was added. After evaporation at 30° C., a mixture of EtOAc:MeOH=95:5 was added to yield, after evaporation and drying, to (2R,3S)-2-(3,4-dichlorobenzylamino)-3-hydroxy-3-(pyridin-4-yl)-1-(pyrrolidin-1-yl)propan-1-one dihydrochloride Compound 251 as a white solid (208 mg, 78% yield).

reactant | (−)-(2R,3S)-2-amino-3-hydroxy-3-(pyridin-4-yl)-1-(pyrrolidin-1-yl)propan-1-one dihydrochloride | Cl.Cl.N[C@@H](C(=O)N1CCCC1)[C@H](C1=CC=NC=C1)O
reactant | Et3N | 1.25 mmol, 175 μL | CCN(CC)CC | C6H15N
reactant | 3,4-dichlorobenzaldehyde | 0.63 mmol, 112 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | AcOH | 1.15 mmol, 65 μL | CC(=O)O | C2H4O2
reactant | NaBH3CN | 0.74 mmol, 50 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | (−)-(2R,3S)-2-amino-3-hydroxy-3-(pyridin-4-yl)-1-(pyrrolidin-1-yl)propan-1-one | 182 mg, 81% yield | N[C@@H](C(=O)N1CCCC1)[C@H](C1=CC=NC=C1)O | C12H17N3O2
